US05888940
3-[2,4-Dichloro-6-fluorobenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound I.4)
1.6 g of sodium hydride (97% strength) in 200 ml of absolute dimethylformamide were initially taken. 11.0 g of ethyl 3-amino-4,4,4-trifluorobut-2-enecarboxylate were then added dropwise at from 0° to 5° C. Stirring was carried out for one hour at this temperature, after which the mixture was cooled to -30° C. and 16.2 g of 2,4-dichloro-6-fluoro-7-isocyanatobenzothiazole in 50 ml of absolute tetrahydrofuran were then added dropwise. The mixture was stirred for one hour at this temperature and then slowly warmed up to room temperature. Thereafter, ice water was added and the pH was brought to 3-4 with dilute hydrochloric acid, after which the product was extracted with ethyl acetate. The ester solution was dried and then evaporated down.

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorobut-2-enecarboxylate | 11.0 g | NC(=CCC(=O)OCC)C(F)(F)F | C7H10F3NO2
reactant | 2,4-dichloro-6-fluoro-7-isocyanatobenzothiazole | 16.2 g | ClC=1SC2=C(N1)C(=CC(=C2N=C=O)F)Cl | C8HCl2FN2OS
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[2,4-Dichloro-6-fluorobenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC=1SC2=C(N1)C(=CC(=C2N2C(NC(=CC2=O)C(F)(F)F)=O)F)Cl | C12H3Cl2F4N3O2S
